US07217724B2
To a solution of N,N-diethyl-3-(2-(((1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl)amino)ethyl)-1H-indole-7-carboxyamide (215.5 mg, 0.526 mmol) in acetonitrile (18 mL) is added disodium hydrogen phosphate (112 mg, 0.789 mmol) under nitrogen atmosphere, and thereto is further added a 1N solution of triethyloxonium tetra-fluoroborate in methylene chloride (1.58 mL, 1.58 mmol), and the mixture is stirred at room temperature for 15 hours. To the reaction solution are added a saturated aqueous sodium hydrogen carbonate solution (18 mL) and sodium hydrogen carbonate (200 mg), and the mixture is further stirred for 2 hours. The mixture is separated into water and chloroform, and the organic layer is washed with a saturated aqueous sodium hydrogen carbonate solution and dried over anhydrous sodium sulfate. The solvent is evaporated, and the obtained crude product is purified by silica gel column chromatography (chloroform: methanol=50:1 5:1) to give ethyl 3-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-(methyl) ethylamino]ethyl}-1H-indole-7-carboxylate (128.4 mg, 0.336 mmol, 64%).

reactant | N,N-diethyl-3-(2-(((1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl)amino)ethyl)-1H-indole-7-carboxyamide | 0.526 mmol, 215.5 mg | C(C)N(C(=O)CC=1C=CC=C2C(=CNC12)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C)CC | C25H33N3O3
reactant | disodium hydrogen phosphate | 0.789 mmol, 112 mg | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | triethyloxonium tetra-fluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | methylene chloride | 1.58 mmol, 1.58 mL | C(Cl)Cl | CH2Cl2
reactant | sodium hydrogen carbonate | 18 mL | C(O)([O-])=O.[Na+]
reactant | sodium hydrogen carbonate | 200 mg | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
product | ethyl 3-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-(methyl) ethylamino]ethyl}-1H-indole-7-carboxylate | 0.336 mmol, 128.4 mg, 64% | O[C@@H]([C@H](C)NCCC1=CNC2=C(C=CC=C12)C(=O)OCC)C1=CC=C(C=C1)O | C22H26N2O4
